US07696223B2
b) 2,3,7-Tribromo-4-hydroxy-1-(4-fluoro-phenyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester
Prepared in analogy to that of Example 133(a) from 2,3-dibromo-1-(4-fluoro-phenyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester and NBS in MeCN. The title compound, ESI MS (m/z): 535 (M+H)+.

reactant | 2,3-dibromo-1-(4-fluoro-phenyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=CN1)N(C(=C2Br)Br)C2=CC=C(C=C2)F)O | C16H11Br2FN2O3
reactant | NBS | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | MeCN | CC#N | C2H3N
product | 2,3,7-Tribromo-4-hydroxy-1-(4-fluoro-phenyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=C(N1)Br)N(C(=C2Br)Br)C2=CC=C(C=C2)F)O | C16H10Br3FN2O3
